US06599901B1
To a stirred solution of 85 mg (0.21 mmol) 2-methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide in 2 ml acetonitrile were added 73 mg (0.43 mmol) sodium iodide and 0.05 ml (0.43 mmol) benzyl bromide. The mixture was heated at reflux for 16 h. The reaction mixture was then cooled to room temperature, diluted with ethyl acetate, and washed sequentially with water and saturated brine. The organic phase was then dried over sodium sulfate and concentrated in vacuo. Flash chromatography (2/1 EtOAc/toluene) afforded 32 mg (32%) 1-benzyl-2-oxo-1,2-dihydro-pyridine-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide as a yellow crystalline solid. ES-MS m/e (%)): 499 (M+Na+, 14), 477 (M+H+, 100).

reactant | 2-methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 0.21 mmol, 85 mg | COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C19H20N4O4S
reactant | sodium iodide | 0.43 mmol, 73 mg | [I-].[Na+]
reactant | benzyl bromide | 0.43 mmol, 0.05 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-2-oxo-1,2-dihydro-pyridine-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | 32 mg, 32% | COC1=CC=C(C2=C1N=C(S2)NC(=O)C2=CC(N(C=C2)CC2=CC=CC=C2)=O)N2CCOCC2 | C25H24N4O4S
